US07989461B2
Dissolved 3,4-dimethoxybenzylamine (3.04 ml, 20.2 mmol) in NMP (15.0 mL) and added 6-(1-chloro-6-methylisoquinolin-5-yl)-N-methylquinazolin-2-amine (2.25 g, 6.72 mmol) as a solid in a sealed vessel and heated the reaction to 220° C. in the microwave 20 minutes. Dripped the reaction mixture into water and isolated the resulting precipitate. Air-dried the solid and redissolved in 2M NH3/MeOH. Concentrated in vacuo, redissolved wet slurry in EtOAc and dried the slurry over Na2SO4. Concentrated and loaded the crude material on a column, and purified the crude eluting with 20-100% EtOAc/hexanes. The pure fractions were combined and concentrated to afford 6-(1-(3,4-dimethoxybenzylamino)-6-methylisoquinolin-5-yl)-N-methylquinazolin-2-amine. MS (M+H)+ 466.

reactant | 3,4-dimethoxybenzylamine | 20.2 mmol, 3.04 ml | COC=1C=C(CN)C=CC1OC | C9H13NO2
reactant | 6-(1-chloro-6-methylisoquinolin-5-yl)-N-methylquinazolin-2-amine | 6.72 mmol, 2.25 g | ClC1=NC=CC2=C(C(=CC=C12)C)C=1C=C2C=NC(=NC2=CC1)NC | C19H15ClN4
reactant | water | O | H2O
solvent | NMP | 15.0 mL | CN1CCCC1=O | C5H9NO
product | 6-(1-(3,4-dimethoxybenzylamino)-6-methylisoquinolin-5-yl)-N-methylquinazolin-2-amine | COC=1C=C(CNC2=NC=CC3=C(C(=CC=C23)C)C=2C=C3C=NC(=NC3=CC2)NC)C=CC1OC | C28H27N5O2
